US06255306B1
4-(4-Methylpiperazin-1yl)indole-2-carboxylic acid
A solution of 1-(2-(ethoxycarbonyl)-1H-indol-4-yl)-4-methylpiperazine (0.91 g, 3.17 mmol), lithium hydroxide hydrate (0.136 g, 3.17 mmol, 1.0 equivalent), tetrahydrofuran (20 mL), and water (4 mL) was heated at reflux under nitrogen for 16 hours. The resulting reaction mixture was evaporated under reduced pressure, and the residue was chromatographed using silica gel (approximately 30 g) and elution with methylene chloride/methanol/ammonium hydroxide [3:2:0.2] to afford the title compound (0.40 g, 1.54 mmol, 49%) as a white solid: mp, 272-273° C.; R, =0.05 in methylene chloride/methanol/ammonium hydroxide [5:1:0.1]; 13C NMR (D2O) δ169.4, 145.0, 137.5, 132.9, 124.7, 120.7, 108.2, 107.3, 103.7, 58.7, 53.7, 51.0; LRMS (m/z, relative intensity) 260 (18), 259 (M+, 100), 244 (9), 215 (7), 170 (24); HRMS calculated for C14H17N3O2 259.1322, found 259.1325.

reactant | 1-(2-(ethoxycarbonyl)-1H-indol-4-yl)-4-methylpiperazine | 3.17 mmol, 0.91 g | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)N1CCN(CC1)C | C16H21N3O2
reactant | lithium hydroxide hydrate | 3.17 mmol, 0.136 g, 1.0 equivalent | O.[OH-].[Li+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 4-(4-Methylpiperazin-1yl)indole-2-carboxylic acid | 1.54 mmol, 0.40 g, 49% | CN1CCN(CC1)C1=C2C=C(NC2=CC=C1)C(=O)O | C14H17N3O2
